### PR TITLE
[Merged by Bors] - chore(CategoryTheory/Functor/Category): don't expose `NatTrans.hcomp`

### PR DESCRIPTION
**Pull request by JovanGerb**
This PR hides the definition of `NatTrans.hcomp`, because it has two equally sensible possible definitions. As a result, we can get rid of the `to_dual_insert_cast`. `simps` doesn't work for non-exposed definition, so `hcomp_app` is proved separately, and its dual `hcomp_app'` is added.

Note: some proofs break, because the `dsimp` set changes, due to the definition not being exposed. This is a bit unfortunate. There was some discussion on Zulip about changing `dsimp` for category theory into a simp set, which would fix this problem, because we could then add `hcomp_app` to this set.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Functor/Category.lean [hunk 1]
```diff
@@ -114,19 +114,21 @@ lemma id_comm (α β : (𝟭 C) ⟶ (𝟭 C)) : α ≫ β = β ≫ α := by
   exact (α.naturality (β.app X)).symm
 
 /-- `hcomp α β` is the horizontal composition of natural transformations. -/
```
Comment (grunweg) [inline Mathlib/CategoryTheory/Functor/Category.lean]: Can you add a comment why this definition is not exposed?

**Review by grunweg — COMMENTED** [review]
Thanks! Sounds sensible to me --- but of course a category theorist should double-check.
maintainer delegate?

**Comment by riccardobrasca** [comment]
There is a building error. Can you fix it and bench?

**Comment by JovanGerb** [comment]
!radar

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/mathlib4/commits/6f27f36861f720e03b72e52a96359b8a88ddd9cb?reference=b4384330e5b9d7268e11d3136e669205994fa74a) for 6f27f36861f720e03b72e52a96359b8a88ddd9cb against b4384330e5b9d7268e11d3136e669205994fa74a are in. No significant results found. @JovanGerb

- ✅ `build//instructions`: **-122.3G** (**-0.08%**)

**Small changes (1🟥)**

- 🟥 `build/module/Batteries.Data.Fin//instructions`: **+33.0M** (**+2.42%**)

**Comment by JovanGerb** [comment]
!radar

I'm not sure if the previous speedup was noise, let's see.

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/mathlib4/commits/f1ddc669aa84c723c4078a0b28f8bfc6bab5b8ed?reference=b9251c8115165ef805d290dcce9d040077cd5d37) for f1ddc669aa84c723c4078a0b28f8bfc6bab5b8ed against b9251c8115165ef805d290dcce9d040077cd5d37 are in. No significant results found. @JovanGerb

- ✅ `build//instructions`: **-8.5G** (**-0.01%**)

No significant changes detected.

**Comment by riccardobrasca** [comment]
Can you please merge master and bench again? Just to make sure that everything is OK with new monoid algebra stuff.

**Comment by JovanGerb** [comment]
!radar

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/mathlib4/commits/f59c4f5b5cd13788172359e0c90fdec76fc06a7d?reference=bb577fa4a1e2a5314521209c86e6015303fd2e9a) for f59c4f5b5cd13788172359e0c90fdec76fc06a7d against bb577fa4a1e2a5314521209c86e6015303fd2e9a are in. No significant results found. @JovanGerb

- 🟥 `build//instructions`: **+34.6G** (**+0.02%**)

No significant changes detected.

**Comment by riccardobrasca** [comment]
Ci is still red :(

**Comment by JovanGerb** [comment]
Ah sorry, it seems we need a `respectTransparency.types false` option now.

**Comment by riccardobrasca** [comment]
!radar

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/mathlib4/commits/82fd261bef7cb6e3d6ee30ca870af8e367320725?reference=c0f1540fb3d67ea8e63bbd8e86501de46f212c59) for 82fd261bef7cb6e3d6ee30ca870af8e367320725 against c0f1540fb3d67ea8e63bbd8e86501de46f212c59 are in. No significant results found. @riccardobrasca

- 🟥 `build//instructions`: **+23.1G** (**+0.02%**)

No significant changes detected.

File: Mathlib/CategoryTheory/Functor/Category.lean [hunk 2]
```diff
@@ -113,20 +113,28 @@ lemma id_comm (α β : (𝟭 C) ⟶ (𝟭 C)) : α ≫ β = β ≫ α := by
   ext X
   exact (α.naturality (β.app X)).symm
 
-/-- `hcomp α β` is the horizontal composition of natural transformations. -/
-@[simps (attr := grind =), to_dual self]
+/-- `hcomp α β` is the horizontal composition of natural transformations.
+
+There are two possible definitions that are equivalent and dual to eachother.
```
Comment (riccardobrasca) [inline Mathlib/CategoryTheory/Functor/Category.lean]:
```suggestion
There are two possible definitions that are equivalent and dual to each other.
```

File: Mathlib/AlgebraicTopology/DoldKan/PInfty.lean [hunk 3]
```diff
@@ -149,10 +149,14 @@ noncomputable def natTransPInfty : alternatingFaceMapComplex C ⟶ alternatingFa
     exact PInfty_f_naturality n f
 
 /-- The natural transformation in each degree that is induced by `natTransPInfty`. -/
-@[simps!]
 noncomputable def natTransPInfty_f (n : ℕ) :=
   natTransPInfty C ◫ 𝟙 (HomologicalComplex.eval _ _ n)
 
+set_option backward.isDefEq.respectTransparency.types false in
```
Comment (riccardobrasca) [inline Mathlib/AlgebraicTopology/DoldKan/PInfty.lean]: Can you add a comment trying to explain why this is needed?

Comment (JovanGerb) [reply Mathlib/AlgebraicTopology/DoldKan/PInfty.lean]: By using `#defeq_abuse in` I identified that `HomologicalComplex.eval` needs to be `implicit_reducible` for this to work without the backwards option, so I've now done that instead. This is in the same spirit as the changes in #42161

**Comment by riccardobrasca** [comment]
@joelriou can you have a look?

**Comment by jcommelin** [comment]
Thanks :tada:

bors merge
